US05576324
5-(3-Methyl-2-butenyl)oxy-3,8-dimethylcarbostyril
Reaction, post-treatment, and recrystallization (chloroform-n-hexane) were performed in a manner similar to that described in Reference Example 31 using 5-hydroxy-3,8-dimethylcarbostyril (1.4 g, 7.41 mmol) and 4-bromo-2-methyl-2-butene (1.21 g, 8.15 mmol). As a result, 1.41 g of the title compound was obtained as colorless crystals (74.1%).

reactant | 5-hydroxy-3,8-dimethylcarbostyril | 7.41 mmol, 1.4 g | OC1=C2C=C(C(NC2=C(C=C1)C)=O)C | C11H11NO2
reactant | 4-bromo-2-methyl-2-butene | 8.15 mmol, 1.21 g | BrCC=C(C)C | C5H9Br
product | 5-(3-Methyl-2-butenyl)oxy-3,8-dimethylcarbostyril | 1.41 g | CC(=CCOC1=C2C=C(C(NC2=C(C=C1)C)=O)C)C | C16H19NO2
